US07268133B2
To the mixture of Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine HCl salt 4A-1 (50.5 mg, 0.1 mmol), triethylammonium chloride (27 mg, 0.2 mmol), and triethylamine (0.028 ml, 0.2 mmol) in absolute ethanol (1 ml) was added cyclopentanone (8.8 ml, 0.1 mmol), followed by borohydride resin (40 mg, 2.5 mmol/g). The mixture was stirred overnight at room temperature. After removal of solvent and resin, the residue was further purified by HPLC to give Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(5-cyclopentyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine 5A-1 (23 mg, 46%): MS: 504.8 (M+1)+; 1H NMR (400 MHz, CD3OD) δ 8.3 (s, 1H), 8.2 (s, 1H), 7.6 (m, 4H), 7.4 (m, 3H), 6.1 (s, 0.5H), 5.4 (s, 0.5H), 4.6 (m, 1.5H), 4.3 (m, 0.5H), 4.1 (m, 1H), 3.7 (m, 3H), 2.4 (m, 2H), 2.3 (m, 1H), 2.2 (m, 1H), 1.8 (m, 2H), 1.6 (m, 4H).

reactant | Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine HCl salt | 0.1 mmol, 50.5 mg | Cl.ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2C1CNC(C2)C1)C1=C(C=CC=C1)Cl
reactant | triethylammonium chloride | 0.2 mmol, 27 mg | [Cl-].C(C)[NH+](CC)CC
reactant | triethylamine | 0.2 mmol, 0.028 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentanone | 0.1 mmol, 8.8 ml | C1(CCCC1)=O | C5H8O
reactant | borohydride | 40 mg | [BH4-]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(5-cyclopentyl-2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine | 23 mg, 46% | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2C1CN(C(C2)C1)C1CCCC1)C1=C(C=CC=C1)Cl | C27H26Cl2N6
